US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-methoxy-1,1-dimethyl-ethyl)-1H-imidazol-4-yl]-amide
2-Amino-pentanoic acid [1-(2-methoxy-1,1-dimethyl-ethyl)-1H-imidazol-4-yl]-amide was coupled with (3,5-Difluoro-phenyl)-acetic acid to provide the title compound: H1NMR (400 MHz, CDCl3) 0.85 (t, 3H, J=7), 1.3 (m, 2H), 1.54 (s, 6H), 1.65 (m, 1H), 1.80 (m, 1H), 3.29 (s, 3H), 3.43 (s, 2H), 3.53 (s, 3H), 4.76, (m, 1H), 6.56 (m, 1H), 6.71 (m, 1H), 6.81 (m, 2H), 7.44 (s, 1H), 7.65 (s, 1H); MS m/z 423.3 (M+1).

reactant | 2-Amino-pentanoic acid [1-(2-methoxy-1,1-dimethyl-ethyl)-1H-imidazol-4-yl]-amide | COCC(C)(C)N1C=NC(=C1)NC(C(CCC)N)=O | C13H24N4O2
reactant | (3,5-Difluoro-phenyl)-acetic acid | FC=1C=C(C=C(C1)F)CC(=O)O | C8H6F2O2
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-methoxy-1,1-dimethyl-ethyl)-1H-imidazol-4-yl]-amide | COCC(C)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C21H28F2N4O3
